US08937064B2
Preparation of 2-(pyrazolo[1,5-a]pyrimidin-3-yl)pyridin-4-amine (7g)
A suspension of 10 ml 1,4-dioxane and 8 ml 4N KOAc (5.9 g) with 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazolo[1,5-a]pyrimidine (13 g, 3.68 g) and 2-chloro-4-aminopyridine (3.68 g) was purged with nitrogen for 30 min. Then, to the suspension was added Pd(PPh3)4 (867 mg) and the reaction mixture was heated at 120° C. in microwave for 20 min. Upon cooling, the precipitated solid was filtered and used without further purification (1.0 g, 31% yield).

reactant | KOAc | 4N, 8 ml, 5.9 g | CC(=O)[O-].[K+]
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazolo[1,5-a]pyrimidine | 13 g | CC1(OB(OC1(C)C)C=1C=NN2C1N=CC=C2)C | C12H16BN3O2
reactant | 2-chloro-4-aminopyridine | 3.68 g | ClC1=NC=CC(=C1)N | C5H5ClN2
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-(pyrazolo[1,5-a]pyrimidin-3-yl)pyridin-4-amine | 31% yield | N1=CC(=C2N1C=CC=N2)C2=NC=CC(=C2)N | C11H9N5
